US08350044B2
Preparation of di(tert-butyl) 2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate (Compound 277)
To a 3-neck round bottom flask was added fluoropyridine boronic acid (4.55 g, 32.3 mmol), ethanol (54 mL), and aqueous K2CO3 solution (27 mL, 2.0 M, 53.8 mmol), followed by 50 mL toluene. To this mixture was added di(tert-butyl) 2-bromo-1,3-thiazol-5-ylimidodicarbonate (10.2 g, 26.9 mmol). Next, tetrakis(triphenylphosphine)palladium(0) (6.2 g, 5.4 mmol) was added in one portion. The flask was fitted with a reflux condenser and was heated to reflux. After 45 minutes, the reaction was cooled in an ice bath and partitioned between aqueous saturated NaHCO3 and ethyl acetate. The layers were separated and the aqueous layer was extracted once with ethyl acetate. The combined organics were washed once with brine, dried over MgSO4, filtered, and then concentrated. This solid was triturated with 20% ethyl acetate/hexanes. The solids were filtered off and the filtrate evaporated to provide a residue which was purified via silica gel column chromatography (0 to 100% ethyl acetate/hexanes) to afford the desired product as an off-white solid (7.74 g, 73% yield): mp 94-96° C.; 1H NMR (300 MHz, CDCl3) δ 8.91 (app t, J=1.3 Hz, 1H), 8.52 (d, J=3.0 Hz, 1H), 7.96 (ddd, J=9.2, 3.0, 1.8 Hz, 1H), 7.66 (s, 1H), 1.48 (s, 18H); ESIMS m/z 396 (M+1).

reactant | fluoropyridine boronic acid | 32.3 mmol, 4.55 g | FC=1C(=NC=CC1)B(O)O | C5H5BFNO2
reactant | ethanol | 54 mL | C(C)O | C2H6O
reactant | K2CO3 | 53.8 mmol, 2.0 M, 27 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | di(tert-butyl) 2-bromo-1,3-thiazol-5-ylimidodicarbonate | 26.9 mmol, 10.2 g | BrC=1SC(=CN1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C13H19BrN2O4S
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.4 mmol, 6.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | di(tert-butyl) 2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate | 7.74 g, 73% yield | FC=1C=C(C=NC1)C=1SC(=CN1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H22FN3O4S
